US04530841
Preparation of Benzyl 6-(2,2,2-trifluoro-1-hydroxyethyl)-3-toluenesulfonyloxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate
A solution of benzyl 3-toluenesulfonyloxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate (41 mg) in anhydrous THF (0.5 ml) is added dropwise over 5 mins to a stirring solution of lithium diisopropylamide (from 15.5 μl of diisopropylamine and 70 μl of 1.6N BuLi) in anhydrous THF (1.5 ml) at -78°. The resulting solution is stirred under a N2 atm at -78° for 10 mins and then trifluoroacetaldehyde (50 mg) is added all at once. After 1 more min, saturated aqueous NH4Cl solution (1.5 ml) is added and the mixture is allowed to warm to room temperature. The mixture is diluted with EtOAc (20 ml), washed with water and brine, dried with MgSO4, filtered, and evaporated in vacuo. The benzyl 6-(2,2,2-trifluoro-1-hydroxyethyl)-3-toluenesulfonyloxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate.

reactant | benzyl 3-toluenesulfonyloxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | 41 mg | C=1(C(=CC=CC1)S(=O)(=O)OC1=C(N2C(CC2C1)=O)C(=O)OCC1=CC=CC=C1)C | C21H19NO6S
reactant | lithium diisopropylamide | 1.6N, 15.5 μl | C(C)(C)[N-]C(C)C.[Li+]
reactant | trifluoroacetaldehyde | 50 mg | FC(C=O)(F)F | C2HF3O
reactant | NH4Cl | 1.5 ml | [NH4+].[Cl-]
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
product | Benzyl 6-(2,2,2-trifluoro-1-hydroxyethyl)-3-toluenesulfonyloxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | FC(C(O)C1C2CC(=C(N2C1=O)C(=O)OCC1=CC=CC=C1)OS(=O)(=O)C=1C(=CC=CC1)C)(F)F | C23H20F3NO7S
